US07858640B2
[3-(2,4-dichlorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of (3-amino-4-fluorophenoxy)acetic acid methyl ester (0.75 g), 2-(2,4-dichlorobenzyl)-3-oxopentanoic acid methyl ester (1.3 g), polyphosphoric acid (5 mL) and dioxane (25 mL) was heated at 120° C. for 17 hours. The mixture was cooled to room temperature, diluted with ethyl acetate and this mixture washed with water, saturated aqueous sodium hydrogen carbonate solution and saturated aqueous sodium chloride solution and then dried over magnesium sulfate. The solvent was removed under reduced pressure to afford title compound as a brown oil, 1.7 μg.

reactant | (3-amino-4-fluorophenoxy)acetic acid methyl ester | 0.75 g | COC(COC1=CC(=C(C=C1)F)N)=O | C9H10FNO3
reactant | 2-(2,4-dichlorobenzyl)-3-oxopentanoic acid methyl ester | 1.3 g | COC(C(C(CC)=O)CC1=C(C=C(C=C1)Cl)Cl)=O | C13H14Cl2O3
reactant | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [3-(2,4-dichlorobenzyl)-2-ethyl-8-fluoro-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(C(=C(NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)Cl)Cl)=O)=O | C21H18Cl2FNO4
